US07220771B2
B. 1-({5-[3-(4-Fluorophenyl)-1H-indazol-5-yl]-4H-1,2,4-triazol-3-yl}methyl)piperidin-4-ol
A solution of ethoxy[3-(4-fluorophenyl)(1H-indazol-5-yl)]methaneamine hydrochloride (521 mg, 1.63 mmol), N-amino-2-(4-hydroxypiperidyl)acetamide (850 mg, 4.9 mmol), and sodium methoxide (1.2 mL, 4.9 mmol) in methanol (˜8 mL) was taken up in a sealed tube and allowed to stir at room temperature for 25 minutes and then heated at 95° C. overnight. The reaction was acidified with hydrochloric acid to neutral pH. The product was extracted using ethyl acetate. The material was concentrated and purified by semipreprative HPLC. The purified material was taken up in ethyl acetate and washed with an aqueous solution of sodium bicarbonate to yield the title compound (47 mg, 7% yield). 1H NMR (DMSO-d6) δ 13.4 (br s, 1H), 8.6 (s, 1H), 8.0 (m, 3H), 7.6 (m, 1H), 7.4 (t, 2H), 3.6–3.8 (m, 2H), 3.4 (m, 2H), 3.2 (d, 1H), 2.4 (m, 2H), 2.0 (s, 4H)H, ES-MS (m/z) 393 [M+1]+.

reactant | ethoxy[3-(4-fluorophenyl)(1H-indazol-5-yl)]methaneamine hydrochloride | 1.63 mmol, 521 mg | Cl.C(C)OC(N)C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)F
reactant | N-amino-2-(4-hydroxypiperidyl)acetamide | 4.9 mmol, 850 mg | NNC(CN1CCC(CC1)O)=O | C7H15N3O2
reactant | sodium methoxide | 4.9 mmol, 1.2 mL | C[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | ˜8 mL | CO | CH4O
product | 1-({5-[3-(4-Fluorophenyl)-1H-indazol-5-yl]-4H-1,2,4-triazol-3-yl}methyl)piperidin-4-ol | 47 mg, 7% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C=1NC(=NN1)CN1CCC(CC1)O | C21H21FN6O
